US07417054B2
5-(4-Methoxy-phenyl)-7-methyl-2-(4-piperidin-1-yl-but-1-ynyl)-5,6,7,8-tetrahydro-[1,7]naphthyridine
A flask containing a mixture of 2-chloro-5-(4-methoxy-phenyl)-7-methyl-5,6,7,8-tetrahydro-[1,7]naphthyridine (0.080 g, 0.28 mmol), Et2NH (1.0 mL), 1-but-3-ynyl-piperidine (0.077 g, 0.56 mmol), CuI (5.3 mg, 27.8 umol), PPh3 (36 mg, 0.14 mmol), and Pd(PPh3)2Cl2 (0.020 g, 0.028 mmol) in DMF (0.5 mL) was evacuated and back-filled with N2 (3×). The mixture was heated at 105 C for 18 h, then was cooled to rt, diluted with satd. aq. NaHCO3, and extracted with DCM. The combined organic layers were washed with H2O, dried, and concentrated. The residue was purified (SiO2; 0-6% 2 M NH3 in MeOH/DCM) to give the title compound (35 mg, 33%). MS (ESI): mass calcd. for C25H31N3O, 389.25; m/z found, 390.6 [M+H]+. 1H NMR (CDCl3): 7.15-7.08 (m, 2H), 7.06 (d, J=8.7, 2H), 6.83 (d, J=8.7, 2H), 4.23-4.17 (m, 1H), 3.91-3.85 (m, 1H), 3.79 (s, 3H), 3.66-3.59 (m, 1H), 3.05-2.99 (m, 1H), 2.76-2.62 (m, 4H), 2.56-2.46 (m, 5H), 2.45 (s, 3H), 1.68-1.58 (m, 4H), 1.49-1.40 (m, 2H).

reactant | 2-chloro-5-(4-methoxy-phenyl)-7-methyl-5,6,7,8-tetrahydro-[1,7]naphthyridine | 0.28 mmol, 0.080 g | ClC1=NC=2CN(CC(C2C=C1)C1=CC=C(C=C1)OC)C | C16H17ClN2O
reactant | Et2NH | 1.0 mL | N(CC)CC | C4H11N
reactant | 1-but-3-ynyl-piperidine | 0.56 mmol, 0.077 g | C(CC#C)N1CCCCC1 | C9H15N
reactant | PPh3 | 0.14 mmol, 36 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 27.8 umol, 5.3 mg | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 0.028 mmol, 0.020 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-(4-Methoxy-phenyl)-7-methyl-2-(4-piperidin-1-yl-but-1-ynyl)-5,6,7,8-tetrahydro-[1,7]naphthyridine | 35 mg, 33% | COC1=CC=C(C=C1)C1C=2C=CC(=NC2CN(C1)C)C#CCCN1CCCCC1 | C25H31N3O
